US07655666B2
1-Benzyloxy-1H-pyrazole
To a mixture of pyrazol-1-ol (1 g, 11.9 mmol) and i-Pr2NEt (2.02 mL, 11.9 mL) in DCM (15 mL) at 0° C. was added BnBr (4.09 mL, 23.8 mmol). The mixture was allowed to warm up to r.t. and stirred at this temperature for 22 h. The mixture was concentrated in vacuo to afford a yellow paste. The crude product was purified by flash chromatography (silica gel, hexanes/DCM/Et2O (100:0:0 to 80:10:10), Rf 0.23 in hexanes/DCM/Et2O (34:3:3)) to provide the title product as a yellow oil (1.17 g, 56%).

reactant | pyrazol-1-ol | 11.9 mmol, 1 g | N1(N=CC=C1)O | C3H4N2O
reactant | i-Pr2NEt | 2.02 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | BnBr | 23.8 mmol, 4.09 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyloxy-1H-pyrazole | 1.17 g, 56% | C(C1=CC=CC=C1)ON1N=CC=C1 | C10H10N2O
